US06887896B1
8-tert-Butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalene-2-carbaldehyde (Compound A-27)
To a solution of 6-bromo-4-tert-butyl-7-ethoxy-1,1-dimethyl-1,2-dihydronaphthalene (Compound A-6, 600 mg, 1.78 mmol) in ether (10 mL) at −78° C. was added n-butyllithium (2.3 mL 1.6 M in hexane, 3.9 mmol). After stirring at −78° C. for 25 nm, N,N-dimethylformamide (2 mL) was added and the reaction mixture was allowed to warm to −40° C. over 10 min. The reaction mixture was quenched with water and extracted with ether. The combined organic layers were washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 3% to 10% ethyl acetate in hexane) afforded the title compound as a white solid.

reactant | 6-bromo-4-tert-butyl-7-ethoxy-1,1-dimethyl-1,2-dihydronaphthalene | 1.78 mmol, 600 mg | BrC=1C=C2C(=CCC(C2=CC1OCC)(C)C)C(C)(C)C | C18H25BrO
reactant | n-butyllithium | 3.9 mmol, 1.6 M, 2.3 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ether | 10 mL | CCOCC | C4H10O
product | 8-tert-Butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalene-2-carbaldehyde | C(C)(C)(C)C1=CCC(C=2C=C(C(=CC12)C=O)OCC)(C)C | C19H26O2
